US07723330B2
Step E: 2-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(4-fluorophenyl)nicotinamide:
A 25 mL round-bottomed flask was charged with Cu(I)I (0.0108 g, 0.0568 mmol), 1-methylpiperidin-4-amine (0.0973 g, 0.852 mmol), K2CO3 (0.196 g, 1.42 mmol), L-Proline (0.0131 g, 0.114 mmol) and DMSO (2.5 mL). The reaction mixture was stirred for 5 minutes and 2-(4-(1-(4-methoxybenzyl)-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(4-fluorophenyl)nicotinamide (0.200 g, 0.284 mmol) in DMSO (2.5 mL) was added. The reaction mixture was heated to 100° C. for 18 hours. The reaction mixture was cooled to ambient temperature and DCM and water (10 mL) were added. The organic layer washed with brine, dried over sodium sulfate, filtered and concentrated. The crude material was purified by silica gel chromatography, eluting with EtOAc to provide the product (23 mg, 11%). LRMS M−1 (691.2) observed.

reactant | 1-methylpiperidin-4-amine | 0.852 mmol, 0.0973 g | CN1CCC(CC1)N | C6H14N2
reactant | K2CO3 | 1.42 mmol, 0.196 g | C(=O)([O-])[O-].[K+].[K+]
reactant | L-Proline | 0.114 mmol, 0.0131 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-(4-(1-(4-methoxybenzyl)-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(4-fluorophenyl)nicotinamide | 0.284 mmol, 0.200 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC3=C(C(=O)NC2=CC=C(C=C2)F)C=CC=N3)F)I)C=C1 | C32H23F2IN6O3
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenylamino)-N-(4-fluorophenyl)nicotinamide | 23 mg, 11% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC3=C(C(=O)NC2=CC=C(C=C2)F)C=CC=N3)F)NC3CCN(CC3)C)C=C1 | C38H36F2N8O3
